US06100275
(±)-8-Methyl-3-phenyl-8-azabicyclo[3.2.1]oct-2-ene Malonate
The title compound was prepared from 8-methyl-3-phenyl-8-azabicyclo[3.2.1]octan-3-ol (8 g, 37 mmol), glacial acetic acid (25 mL) and concentrated hydrochloric acid (8 mL). The free base of the title compound (7.4 g, 37 mmol) was dissolved in absolute ethanol (20 mL) and added malonic acid (3.9 g, 37.5 mmol), the solution was heated at reflux for a couple of minutes, some impurities was removed by filtration while the solution was still hot, the solution was cooled and kept at 5° C. for at while, then seeded with a crystal and precipitation of the title compound began, after 2 hours at 5° C., the title compound was isolated by filtration, the crystals was washed with cold absolute ethanol (10 mL). Yield 5.9 g (53%), m.p. 131-131.8° C.

reactant | 8-methyl-3-phenyl-8-azabicyclo[3.2.1]octan-3-ol | 37 mmol, 8 g | CN1C2CC(CC1CC2)(O)C2=CC=CC=C2 | C14H19NO
reactant | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 8 mL | Cl | ClH
reactant | malonic acid | 37.5 mmol, 3.9 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (±)-8-Methyl-3-phenyl-8-azabicyclo[3.2.1]oct-2-ene Malonate | 37 mmol, 7.4 g | C(CC(=O)O)(=O)O.CN1C2C=C(CC1CC2)C2=CC=CC=C2 | InChI=1S/C14H17N.C3H4O4/c1-15-13-7-8-14(15)10-12(9-13)11-5-3-2-4-6-11;4-2(5)1-3(6)7/h2-6,9,13-14H,7-8,10H2,1H3;1H2,(H,4,5)(H,6,7)
